US08232278B2
Synthesis of 2-methyl-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidin-4(3H)one
A suspension of 3-amino-6-(4-fluorophenyl)-pyridine-2-carboxylic acid amide (0.46 g, 2.0 mmol) in triethyl orthoacetate (10 ml) was heated under reflux for 3 hours. After cooling to room temperature, the precipitate was collected by filtration and washed with diethyl ether, yielded the title compound as a white solid (360 mg, yield 70%) which was characterised as follows: MS (m/z): 256 ([M+H]+, 100).

reactant | 3-amino-6-(4-fluorophenyl)-pyridine-2-carboxylic acid amide | 2.0 mmol, 0.46 g | NC=1C(=NC(=CC1)C1=CC=C(C=C1)F)C(=O)N | C12H10FN3O
reactant | triethyl orthoacetate | 10 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 2-methyl-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidin-4(3H)one | 360 mg, yield 70% | CC=1NC(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)=O | C14H10FN3O
